US08222245B2
7-{5-[4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride
1,1-Dimethylethyl-7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 44) (550 mg, 1.06 mmol) was dissolved in 4M HCl in dioxane (5 ml) and the solution stirred for 2 h. The title compound was filtered off as a white solid and dried in a vacuum oven (259 mg, 0.57 mmol). δH (d6DMSO, 400 MHz): 9.23 (2H, brs), 8.40 (1H, dd), 8.31 (1H, d), 7.96 (1H, d), 7.93 (1H, dd), 7.59 (1H, d), 7.44 (1H, d), 4.98 (1H, septet), 3.27-3.18 (8H, m), 1.36 (6H, d); MS (ES): C22H22F3N3O2 requires 417; found 418 [M+H]+.

reactant | 1,1-Dimethylethyl-7-{5-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.06 mmol, 550 mg | CC(C)(C)C1CN(CCC2=C1C=CC(=C2)C2=NOC(=N2)C2=CC(=C(C=C2)OC(C)C)C(F)(F)F)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 7-{5-[4-[(1-Methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.CC(C)OC1=C(C=C(C=C1)C1=NC(=NO1)C1=CC2=C(CCNCC2)C=C1)C(F)(F)F | InChI=1S/C22H22F3N3O2.ClH/c1-13(2)29-19-6-5-17(12-18(19)22(23,24)25)21-27-20(28-30-21)16-4-3-14-7-9-26-10-8-15(14)11-16;/h3-6,11-13,26H,7-10H2,1-2H3;1H
